US07544809B2
4-Chloromethyl-5-methyl-2-p-tolyloxazole (formula XV)
32.8 g (137 mmol) of 4,5-dimethyl-2-p-tolyloxazole 3-oxide hydrochloride were suspended in 165 ml of dichloromethane. 17.5 g (151 mmol) of methanesulfonyl chloride were added. The reaction was stirred at reflux up to full conversion (HPLC). Subsequently, 200 ml of ethylene glycol dimethyl ether were added, and the dichloromethane was distilled off under reduced pressure. The reaction mixture was cooled to 15° C. and 250 ml of water were added. The mixture was stirred at 15° C. for 1 hour. The precipitated product was isolated by filtration with suction, washed with water and dried at elevated temperature under reduced pressure.

reactant | 4,5-dimethyl-2-p-tolyloxazole 3-oxide hydrochloride | 137 mmol, 32.8 g | Cl.CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C)[O-]
reactant | methanesulfonyl chloride | 151 mmol, 17.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethylene glycol dimethyl ether | 200 ml | COCCOC | C4H10O2
solvent | dichloromethane | 165 ml | ClCCl | CH2Cl2
product | 4-Chloromethyl-5-methyl-2-p-tolyloxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C | C12H12ClNO
